US06043248
(E)-4-[(4-Amino-6-chloro-2-pyrimidinyl)thio]-3-methyl-2-pentenoic acid methyl ester (Cpd #209)
To (E)-4-hydroxy-3-methyl-2-pentenoic acid methyl ester (1.00 g, 6.94 mmol) in methylene chloride cooled to -15° C. in a flame dried flask is added dichlorotriphenylphosphorane (2.47 g, 7.63 mmol). The reaction is warmed to ambient temperature, quenched by addition of ice (10 ml), extracted with methylene chloride (2×10 ml), washed with saline (10 ml), dried over sodium sulfate, concentrated in vacuo, and chromatographed on silica gel (230-400 mesh, 75 ml), eluting with hexane/ethyl acetate (95/5). The appropriate fractions are combined (Rf =0.55, TLC, hexane/ethyl acetate, 75/25) and concentrated in vacuo to give (E)-4-chloro-3-methyl-2-pentenoic acid methyl ester. 4-Amino-6-chloro-2-mercaptopyrimidine mesylate (0.30 g, 1.16 mmol) is dissolved in DMF (4 ml) and sodium hydride (0.06 g, 2.56 mmol) at ambient temperature followed by the addition of (E)-4-chloro-3-methyl-2-pentenoic acid methyl ester (0.19 g, 1.16 mmol). The reaction is stirred for 15 hours, quenched with excess water, extracted with ethyl acetate (3×15 ml). The extracts are combined, washed with saline (15 ml), dried over sodium sulfate, concentrated in vacuo and chromatographed on silica gel (230-400 mesh, 100 ml), eluting with hexane/ethyl acetate (85/15). The appropriate fractions are combined (Rf =0.18, TLC, hexane/ethyl acetate, 50/50) and concentrated in vacuo to give the title compound, mp 124-126° C.

reactant | 4-Amino-6-chloro-2-mercaptopyrimidine mesylate | 1.16 mmol, 0.30 g | S(C)(=O)(=O)O.NC1=NC(=NC(=C1)Cl)S
reactant | sodium hydride | 2.56 mmol, 0.06 g | [H-].[Na+]
reactant | (E)-4-chloro-3-methyl-2-pentenoic acid methyl ester | 1.16 mmol, 0.19 g | COC(\C=C(\C(C)Cl)/C)=O | C7H11ClO2
solvent | DMF | 4 ml | CN(C)C=O | C3H7NO
product | (E)-4-[(4-Amino-6-chloro-2-pyrimidinyl)thio]-3-methyl-2-pentenoic acid methyl ester | COC(\C=C(\C(C)SC1=NC(=CC(=N1)N)Cl)/C)=O | C11H14ClN3O2S
